* source LMH6619
R_R1         N01485 VOUT  2000 TC=0,0 
V_V2         VREF 0 0Vdc
V_V4         VIN VREF  AC 1
+SIN 0 1 5e6 0 0 0
R_R4         VOUT VREF  1000 TC=0,0 
R_R2         VREF N01485  2000 TC=0,0 
V_V1         VCC 0 5Vdc
V_V3         VEE 0 -5Vdc
X_U1         VIN N01485 VCC VEE VOUT LMH6618
